2126-07-01 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-6-30**] 04:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-6-30**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-6-30**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-1**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 80 (68 - 84) bpm
   BP: 108/54(69) {82/46(57) - 114/81(89)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.8 kg (admission): 89.4 kg
             Total In:
                                                                  5,787 mL
                                                                     51 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,107 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                     85 mL
   Urine:
                                                                    140 mL
                                                                     85 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  5,202 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   10.4 g/dL
   103 mg/dL
   3.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   31 mg/dL
   102 mEq/L
   141 mEq/L
   33.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2126-6-30**]  03:44 AM
                             [**2126-7-1**]  04:00 AM
   WBC
   16.6
   10.1
   Hct
   32.6
   33.2
   Plt
   146
   171
   Cr
   2.9
   3.8
   Glucose
   122
   103
   Other labs: PT / PTT / INR:16.3/27.3/1.4, ALT / AST:98/107, Alk Phos /
   T Bili:383/1.0, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
   This is a 82 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, h/o MRSA bacteremia presented with hypotension
   and fever.
   # Sepsis: His presentation is concerning for infection. Urine is
   suspicous for UTI. blood culture pending. BP has been stable, unclear
   what the initial low BP read was, but maintained BPs with IVFs.  RUQ
   without any evidence of cholecystitis.  CXR without clear PNA.  most
   likely source is urine.
   - vanco, meropenem (h/o ESBL)
   - blood culture
 not sent
   - send UCx  pending
   - IVF for MAP greater than 60
   - obtain 2 large PIVs
   - if difficulty with maintaining BPs, will place CVL
   # ESRD/HD:
   - renal aware
   # h/o CAD/PVD/CVA:
   - continue ASA 81 mg daily
   # h/o Afib: Currently in afib but rate controlled.
   - not anticoagulated with h/o GI bleed; rate controlled currently
   # Anemia h/o GIB:
   - HCT at baseline
   # Prophylaxis: sc heparin tid; PPI
   # FEN: low Na diet
   # Access: PIV
   # Code: Full Code, confirmed with patient
   # Contact: Wife, [**Name (NI) 237**] [**Name (NI) 5531**], h [**Telephone/Fax (1) 7010**], c [**Telephone/Fax (1) 7011**]
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-6-30**] 02:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-07-01 06:48:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-6-30**] 04:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-6-30**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-6-30**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-1**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 80 (68 - 84) bpm
   BP: 108/54(69) {82/46(57) - 114/81(89)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.8 kg (admission): 89.4 kg
             Total In:
                                                                  5,787 mL
                                                                     51 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,107 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                     85 mL
   Urine:
                                                                    140 mL
                                                                     85 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  5,202 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   171 K/uL
   103 mg/dL
   3.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   31 mg/dL
   102 mEq/L
   141 mEq/L
   33.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2126-6-30**]  03:44 AM
                             [**2126-7-1**]  04:00 AM
   WBC
   16.6
   10.1
   Hct
   32.6
   33.2
   Plt
   146
   171
   Cr
   2.9
   3.8
   Glucose
   122
   103
   Other labs: PT / PTT / INR:16.3/27.3/1.4, ALT / AST:98/107, Alk Phos /
   T Bili:383/1.0, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-6-30**] 02:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2126-07-02 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-6-30**] 04:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-7-1**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-7-2**] 12:20 AM
   Other medications:
   Acetaminophen 3. Albuterol 0.083% Neb Soln 4. Aspirin 5. Daptomycin 6.
   Daptomycin 7. Docusate Sodium
   8. Fluoxetine 9. Heparin 10. Ipratropium Bromide Neb 11. Meropenem 12.
   Multivitamins 13. Ondansetron
   14. Pantoprazole 15. Senna 16. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-2**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 79 (71 - 85) bpm
   BP: 114/48(64) {93/47(57) - 137/100(108)} mmHg
   RR: 26 (19 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 89.4 kg
                  Total In:
                                                                    891 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
                                                                     51 mL
   Blood products:
   Total out:
                                                                    365 mL
                                                                     60 mL
   Urine:
                                                                    365 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    526 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Gen: NAD, on hemodialysis
   CV: irregularly irregular, nl s1/s2 no mrg
   Pulm: CTA b/l
   Abd: +BS, soft, NT, ND
   Ext: no edema, warm and well perfused
   Labs / Radiology
   178 K/uL
   9.8 g/dL
   109 mg/dL
   4.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   40 mg/dL
   104 mEq/L
   141 mEq/L
   30.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2126-6-30**]  03:44 AM
                             [**2126-7-1**]  04:00 AM
                             [**2126-7-2**]  04:35 AM
   WBC
   16.6
   10.1
   6.4
   Hct
   32.6
   33.2
   30.0
   Plt
   146
   171
   178
   Cr
   2.9
   3.8
   4.5
   Glucose
   122
   103
   109
   Other labs: PT / PTT / INR:16.3/27.3/1.4, ALT / AST:67/42, Alk Phos / T
   Bili:336/0.6, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: blood ctx [**7-1**] and 14 pending
   Imaging: U/S right AVF
    Right arm graft widely patent. No thrombus
   HIDA scan: no report
   CXR [**7-1**]: A portable upright chest radiograph is compared to [**2126-6-29**].
   The cardiac
   silhouette remains moderately enlarged. The outline of a stent
   projecting
   over the upper left mid mediastinum, likely within the left
   brachiocephalic
   vein, is unchanged in position. Retrocardiac opacity, likely
   representing
   atelectasis, is slightly improved. No new areas of consolidation. Small
   bilateral pleural effusions may be present.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
   This is a 82 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, h/o MRSA bacteremia presented with hypotension
   and fever.
   # Sepsis: Gram negative rods grew in blood. Now speciated as
   enterococcus and other organisms; WBC count decreasing and afebrile
   - HIDA scan and RUQ U/S negative
   - CT abdomen with and without  IV/PO contrast to r/o abdominal source
   - cont Meropenem, started Daptomycin per ID recs, ID now following
   - cont blood ctxs
   # ESRD/HD:
   - renal aware
   - d/c Foley
   # h/o CAD/PVD/CVA:
   - continue ASA 81 mg daily
   # h/o Afib: Currently in afib but rate controlled.
   - not anticoagulated with h/o GI bleed; rate controlled currently
   # Anemia h/o GIB:
   - HCT at baseline
   # Prophylaxis: sc heparin tid; PPI
   # FEN: low Na diet
   # Access: PIV
   # Code: Full Code, confirmed with patient
   # Contact: Wife, [**Name (NI) 237**] [**Name (NI) 5531**], h [**Telephone/Fax (1) 7010**], c [**Telephone/Fax (1) 7011**]
   # Dispo: c/o to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-6-30**] 02:57 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-07-03 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-7-3**] 04:30 AM
   daily BCx
 CALLED OUT
   [**7-2**]
   -started on Dapto in addition to [**Last Name (un) **] for enterococcus, possible VRE.
   D/c Vanco
   -ID consulting
   -c/o to floor
   -HIDA unremarkable
   -CT abd/pelvis: prelim 1. No areas in the abdomen or pelvis concerning
   for abscess formation. 2. New small right pleural effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-7-2**] 12:30 PM
   Daptomycin - [**2126-7-2**] 01:00 PM
   Infusions:
   Other ICU medications:
   Acetaminophen
   Albuterol 0.083% Neb Soln
   Aspirin
   Daptomycin
   Daptomycin
   Docusate Sodium
   Fluoxetine
   Heparin
   Ipratropium Bromide Neb
   Meropenem
   Multivitamins
   Ondansetron
   Pantoprazole
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-3**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 77 (72 - 96) bpm
   BP: 116/55(69) {95/40(53) - 127/88(93)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 89.4 kg
                  Total In:
                                                                    780 mL
                  PO:
                                                                    630 mL
                  TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                     50 mL
   Urine:
                                                                    270 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   10.2 g/dL
   98 mg/dL
   3.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   24 mg/dL
   100 mEq/L
   138 mEq/L
   31.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2126-6-30**]  03:44 AM
                             [**2126-7-1**]  04:00 AM
                             [**2126-7-2**]  04:35 AM
                             [**2126-7-3**]  04:30 AM
   WBC
   16.6
   10.1
   6.4
   5.8
   Hct
   32.6
   33.2
   30.0
   31.5
   Plt
   146
   171
   178
   180
   Cr
   2.9
   3.8
   4.5
   3.0
   Glucose
   122
   103
   109
   98
   Other labs: PT / PTT / INR:16.3/27.3/1.4, ALT / AST:51/30, Alk Phos / T
   Bili:346/0.4, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 BACTEREMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
   This is a 82 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, h/o MRSA bacteremia presented with hypotension
   and fever.
   # Sepsis: Polymicrobial bacteremia with gram negative rods 2 species
   and enterococcus (h/o VRE).  Expanded coverage with Dapto on [**7-2**] to
   cover for VRE.  Explored potential biliary source but imaging without
   evidence of cholecystitis or other acute pathology.  ID following and
   appreciate their input.
   - vanco, meropenem (h/o ESBL)
   - surveillance blood culture sent.
   - sent UCx
   - Prostate u/s to eval as possible septic source
   - Tagged WBC scan to eval for possible septic source
   - Dental c/s and panorex to eval for potential source.
   - IVF for MAP greater than 60
   - Maintain 2 large PIVs
   - if difficulty with maintaining BPs, will place CVL
   # ESRD/HD:
   - renal aware and following
   - Pt getting HD.
   # h/o CAD/PVD/CVA:
   - continue ASA 81 mg daily
   # h/o Afib: Currently in afib but rate controlled.
   - not anticoagulated with h/o GI bleed; rate controlled currently
   # Anemia h/o GIB:
   - HCT at baseline
   # Prophylaxis: sc heparin tid; PPI
   # FEN: low Na diet
   ICU Care
   Nutrition: Low Na diet / Renal diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-6-30**] 02:57 AM
   Prophylaxis:
   DVT: Heparin / SCD
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication: Pt and Pts wife  Comments:
   [**Name2 (NI) 66**] status: Full
   Disposition: Called out